US06358956B1
2-(3-Trifluoromethylphenyl)ethylisocyanate
To a methylene chloride solution of commercially available 2-(3-trifluoromethylphenyl)ethylamine (5.65 mmol) at 0° C. was added solid Proton sponge (5.65 mmol) then a 20% solution of phosgene in toluene (5.65 mmol). The solution was stirred at 25° C. for 1 hour and then washed with 1N HCl (40 mL). The methylene chloride was then dried with sodium sulfate and evaporated. 1H-NMR (CDCl3): 7.5 ppm (m, 4H); 3.6 ppm (t, 2H); 2.95 ppm (t, 2H).

reactant | 2-(3-trifluoromethylphenyl)ethylamine | 5.65 mmol | FC(C=1C=C(C=CC1)CCN)(F)F | C9H10F3N
reactant | Proton sponge | 5.65 mmol | CN(C)C1=CC=CC2=C1C(=CC=C2)N(C)C | C14H18N2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 5.65 mmol | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(3-Trifluoromethylphenyl)ethylisocyanate | FC(C=1C=C(C=CC1)CCN=C=O)(F)F | C10H8F3NO
